US04077982
Using the procedure of Example 47, (3-chlorophenoxy)acetaldehyde diethyl acetal and 2-benzyloxy-1,3-propanediol were reacted to give 5-benzyloxy-2-(3-chlorophenoxymethyl)-1,3-dioxane, nD25 1.5587. The ir spectrum was consistent with the assigned structure. The nmr spectrum indicated 40% cis isomer and 60% trans isomer.

reactant | (3-chlorophenoxy)acetaldehyde diethyl acetal | C(C)OC(COC1=CC(=CC=C1)Cl)OCC | C12H17ClO3
reactant | 2-benzyloxy-1,3-propanediol | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
product | 5-benzyloxy-2-(3-chlorophenoxymethyl)-1,3-dioxane | C(C1=CC=CC=C1)OC1COC(OC1)COC1=CC(=CC=C1)Cl | C18H19ClO4
